US07314877B2
2) Production of 6-(1-benzofuran-5-yl)-4-carboxy-2H-pyridazin-3-one
5-Acetyl-1-benzofuran (536 mg, 3.35 mmol) and diethyl ketomalonate (642 mg, 3.69 mmol) were mixed together, and the mixture was stirred for 34 hours at 120° C. Hydrazine monohydrate (247 mg, 4.93 mmol) was added to a solution of the reaction mixture in isopropanol (8.5 mL), and the resultant mixture was heated with stirring for six hours at 100° C. A 2-mol/L aqueous sodium hydroxide solution (5.2 mL) was added thereto, and the mixture was further stirred for four hours at 100° C. The mixture was cooled with ice, and concentrated hydrochloric acid was added thereto, to thereby acidify the heated system. The formed precipitates were collected through filtration, thoroughly washed with water, and dried, to thereby yield 397 mg of the title compound as a yellow powder (46.2%).

reactant | 5-Acetyl-1-benzofuran | 3.35 mmol, 536 mg | C(C)(=O)C=1C=CC2=C(C=CO2)C1 | C10H8O2
reactant | diethyl ketomalonate | 3.69 mmol, 642 mg | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | Hydrazine monohydrate | 4.93 mmol, 247 mg | O.NN
reactant | sodium hydroxide | 2-mol/L, 5.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 8.5 mL | C(C)(C)O | C3H8O
product | 6-(1-benzofuran-5-yl)-4-carboxy-2H-pyridazin-3-one | O1C=CC2=C1C=CC(=C2)C=2C=C(C(NN2)=O)C(=O)O | C13H8N2O4
